US08624232B2
(i) Synthesis of 2,5-dihydro-1,4-dioxo-3,6-dithienylpyrrolo[3,4-c]-pyrrole (1-2)
Sodium metal (6.90 g, 0.30 mol) was added to 100 ml t-amyl alcohol and a small amount of iron (III) chloride (100 mg) was added. The mixture was stirred vigorously for 2 hr at 105° C. until the sodium dissolved. The solution was cooled to 85° C. and 2-thiophenecarbonitrile (22.0 g, 0.2 mol) was added. Diisopropyl succinate (16.6 g, 0.08 mol) dissolved in 10 ml of t-amyl alcohol was added dropwise to the reaction mixture over 1 hr at 85° C. The reaction mixture was stirred at this temperature for 12 hrs, then cooled to 50° C., diluted with 100 ml of methanol, and then slowly neutralized with 30 ml of glacial acetic acid and refluxed briefly, and then filtered. The residue was washed several times with hot methanol and water, and the resultant solid was dried in a vacuum oven at 50° C. A dark red color powder was obtained which was used without further purification (20 g, 83%).

reactant | Sodium | 0.30 mol, 6.90 g | [Na] | Na
reactant | 2-thiophenecarbonitrile | 0.2 mol, 22.0 g | S1C(=CC=C1)C#N | C5H3NS
reactant | Diisopropyl succinate | 0.08 mol, 16.6 g | C(CCC(=O)OC(C)C)(=O)OC(C)C | C10H18O4
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | t-amyl alcohol | 10 ml | C(C)(C)(CC)O | C5H12O
solvent | methanol | 100 ml | CO | CH4O
catalyst | iron (III) chloride | 100 mg | [Fe](Cl)(Cl)Cl
solvent | t-amyl alcohol | 100 ml | C(C)(C)(CC)O | C5H12O
product | 2,5-dihydro-1,4-dioxo-3,6-dithienylpyrrolo[3,4-c]-pyrrole | O=C1NC(=C2C1=C(NC2=O)C=2SC=CC2)C=2SC=CC2 | C14H8N2O2S2
